US07094801B2
Ex-40A: 2,4-Dimethoxy-5-(5-methyl-thiophen-2-yl)-benzaldehyde was prepared from 5-bromo-2,4-dimethoxybenzaldehyde and 5-methyl-thiophene-2-boronic acid in a similar manner as described in Ex-3A, 100% yield. 1H-NMR (CDCl3) δ 10.33 (s, 1H), 8.05 (s, 1H), 7.22 (d, J=4 Hz, 1H), 6.72 (d, J=4 Hz, 1H), 6.49 (s, 1H), 4.00 (s, 3H), 3.97 (s, 3H), 2.50 (s, 3H). HMRS (EI) calcd. for C14H14O3S: 262.0664; found: 262.0665.

reactant | 5-bromo-2,4-dimethoxybenzaldehyde | BrC=1C(=CC(=C(C=O)C1)OC)OC | C9H9BrO3
reactant | 5-methyl-thiophene-2-boronic acid | CC1=CC=C(S1)B(O)O | C5H7BO2S
product | 2,4-Dimethoxy-5-(5-methyl-thiophen-2-yl)-benzaldehyde | 100% yield | COC1=C(C=O)C=C(C(=C1)OC)C=1SC(=CC1)C | C14H14O3S
